US04263037
2-(2-Methoxy-5-cyanophenyl)-2-methyl-1-propanal (III)
2-(2-Methoxy-5-bromophenyl)-2-methyl-1-propanal (9.5 g), prepared as in Example 5(d), cuprous cyanide (4.0 g) and dimethylformamide (20 ml) were heated under reflux with stirring for 3 hours. A solution of ferric chloride (7.3 g) in water (25 ml) and hydrochloric acid (3.5 ml conc) was added to the cooled reaction mixture which was then heated at 60°-70° C. for 5 minutes. Isolation of the product through diethyl ether yielded, after recrystallisation from ethanol, 3 g of pure product, mp 115°-117° C.

reactant | 2-(2-Methoxy-5-bromophenyl)-2-methyl-1-propanal | 9.5 g | COC1=C(C=C(C=C1)Br)C(C=O)(C)C | C11H13BrO2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 25 ml | O | H2O
solvent | hydrochloric acid | 3.5 ml | Cl | ClH
product | 2-(2-Methoxy-5-cyanophenyl)-2-methyl-1-propanal | COC1=C(C=C(C=C1)C#N)C(C=O)(C)C | C12H13NO2
